US08754226B2
Concentrated aqueous HCl (2 mL) was added to a suspension of (S)-methyl 5-(1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)picolinate (0.19 g, 0.45 mmol) in MeOH (4 mL). The mixture was stirred at ambient temperature overnight and then concentrated. The residue was concentrated from MeOH twice to afford (S)-methyl 5-(2-oxo-1-(piperidin-4-yl)pyrrolidin-3-yloxy)picolinate hydrochloride (0.19 g, 0.44 mmol, 98%).

reactant | HCl | 2 mL | Cl | ClH
reactant | (S)-methyl 5-(1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)picolinate | 0.45 mmol, 0.19 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C([C@H](CC1)OC=1C=CC(=NC1)C(=O)OC)=O | C21H29N3O6
solvent | MeOH | 4 mL | CO | CH4O
product | (S)-methyl 5-(2-oxo-1-(piperidin-4-yl)pyrrolidin-3-yloxy)picolinate hydrochloride | 0.44 mmol, 0.19 g, 98% | Cl.O=C1N(CC[C@@H]1OC=1C=CC(=NC1)C(=O)OC)C1CCNCC1 | InChI=1S/C16H21N3O4.ClH/c1-22-16(21)13-3-2-12(10-18-13)23-14-6-9-19(15(14)20)11-4-7-17-8-5-11;/h2-3,10-11,14,17H,4-9H2,1H3;1H/t14-;/m0./s1
